US06548448B2
A solution of 0.500 g (0.0011 mol) of 2-(2-(4-chlorophenylthio)ethyl)-1,1,2-tribromocyclopropane in 6 ml of diethyl ether was placed under a nitrogen atmosphere by use of a Firestone valve. While cooling in an ice water bath, 2.38 ml (0.00334 mol) of 1.4 M methyl lithium in diethyl ether was added slowly via syringe. After 15 minutes, 2 ml of water was added via syringe. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo with a bath temperature under 20° C. to yield 0.100 g of 1-(2-(4-chlorophenylthio)ethyl)cyclopropene as an oil.

reactant | 2-(2-(4-chlorophenylthio)ethyl)-1,1,2-tribromocyclopropane | 0.0011 mol, 0.500 g | ClC1=CC=C(C=C1)SCCC1(C(C1)(Br)Br)Br | C11H10Br3ClS
reactant | methyl lithium | 0.00334 mol, 1.4 M, 2.38 ml | C[Li]
reactant | water | 2 ml | O | H2O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | 1-(2-(4-chlorophenylthio)ethyl)cyclopropene | 0.100 g | ClC1=CC=C(C=C1)SCCC1=CC1 | C11H11ClS
